US08486963B2
Step 1: 5-Chloro-7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide
5-Chloro-7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid (145 mg, 0.34 mmol), O—((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine (50 mg, 0.34 mmol), HOBt (50 mg, 0.37 mmol), EDCI hydrochloride (71 mg, 0.37 mmol) and DIPEA (63 μL, 0.37 mmol) were dissolved in DMF (3 mL). The reaction was stirred at room temperature for 3 hours then concentrated in vacuo. The resultant residue was dissolved in ethyl acetate (10 mL), washed with aqueous saturated sodium bicarbonate solution (10 mL) and the aqueous fraction extracted twice with ethyl acetate (2×10 mL). The combined organic fractions were washed with brine, dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 25-100% ethylacetate in cyclohexane) to yield the title compound as a brown solid (57 mg, 25%). LCMS (Method B): RT=3.63 min, M+H+=561.

reactant | 5-Chloro-7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid | 0.34 mmol, 145 mg | ClC=1C(=C(N2C=NC=CC21)NC2=C(C=C(C=C2)I)F)C(=O)O | C14H8ClFIN3O2
reactant | O—((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine | 0.34 mmol, 50 mg | CC1(OC[C@@H](O1)CON)C | C6H13NO3
reactant | HOBt | 0.37 mmol, 50 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI hydrochloride | 0.37 mmol, 71 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 0.37 mmol, 63 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | 57 mg, 25% | CC1(OC[C@@H](O1)CONC(=O)C=1C(=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)I)F)Cl)C | C20H19ClFIN4O4
